US07371779B2
Preparation of 3-formyl-2-heptyl-4(1H)-quinolone
A mixture of 2-heptyl-4(1H)-quinolone (5 mmol), hexamine (2.5 mmol), and TFA (7.5 ml) was stirred at reflux under nitrogen for 30 hours. MeOH (15 ml) and water (15 ml) were added, and heating was continued for 1 hour. 3 M HCl (5 ml) was added and the heating was continued for a further period of 30 minutes. The mixture was cooled and the precipitate removed by filtration and washed with water. The solid on trituration with acetone afforded the title compound in 40% yield. Recrystallisation from MeOH/EtOAc gave colourless needles, mp 245-248° C. (dec).

reactant | 2-heptyl-4(1H)-quinolone | 5 mmol | C(CCCCCC)C=1NC2=CC=CC=C2C(C1)=O | C16H21NO
reactant | hexamine | 2.5 mmol | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | TFA | 7.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 3 M, 5 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | MeOH | 15 ml | CO | CH4O
product | 3-formyl-2-heptyl-4(1H)-quinolone | 40% yield | C(=O)C1=C(NC2=CC=CC=C2C1=O)CCCCCCC | C17H21NO2
